US04052511
c. 1-(4-methylbutanoyl)-L-Proline
The dicyclohexylamine salt (8.7 g.) is dissolved in 60 ml. of methanol and 60 ml. sodium hydroxide are added while stirring. To this 100 ml. of Dowex 50 resin is added to make the pH acid. This is applied to a 300 ml. column of Dowex 50 resin and eluted with water. Those fractions which are COOH-reagent positive are pooled and lyophilized to obtain 4.78 g. of 1-(4-carboxy-4-methylbutanoyl)-L-proline.

reactant | dicyclohexylamine | 8.7 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-(4-carboxy-4-methylbutanoyl)-L-proline | C(=O)(O)C(CCC(=O)N1[C@H](C(=O)O)CCC1)C | C11H17NO5
solvent | methanol | CO | CH4O
product | 1-(4-methylbutanoyl)-L-Proline | CCCCC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO3
